US07691881B2
4(1) Ethyl 5-bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in Example 1(5) (1.12 g, 5.00 mmol) and N-bromosuccinimide (890 mg, 5.00 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 16 h, and then the solvent was removed in vacuo. The residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (v/v=2/1˜1/1) to give 1.34 g (91%) of the title compound as a yellow solid.

reactant | ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | C(C)(C)N1C(C(=CC=C1C)C(=O)OCC)=O | C12H17NO3
reactant | N-bromosuccinimide | 5.00 mmol, 890 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.34 g, 91% | BrC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16BrNO3
